* source 4300LAB7_CMATTHEWS
R_RG1         N14492 N14655  1200 TC=0,0 
R_RG2         0 N14492  680 TC=0,0 
R_RD         N14768 N14659  220 TC=0,0 
R_RS         0 N14484  1200 TC=0,0 
M_M1         N14768 N14492 N14484 N14484 MM
V_V1         N14659 0 15Vdc
V_V2         N14655 0 15Vdc
