* source 4300LAB8
V_Vsig         N14405 0  AC 80m
+SIN 0 80m 1k 0 0 0
R_Rsig         N14405 N14398  50 TC=0,0 
C_CC1         N14398 N14504  1u  TC=0,0 
R_R1         0 N14504  22k TC=0,0 
R_R2         N14504 N14500  100k TC=0,0 
V_V2         N14500 0 10Vdc
Q_Q         N14627 N14504 N14796 Q2N3904
V_V3         N14623 0 10Vdc
R_R3         N14627 N14623  4.7k TC=0,0 
R_RE1         N14800 N14796  220 TC=0,0 
R_RE2         0 N14800  1k TC=0,0 
C_CE         0 N14800  1u  TC=0,0 
C_CC2         N14627 N14964  1u  TC=0,0 
R_R6         0 N14964  51k TC=0,0 
