* source 4300PRELAB2COLE
R_RS         N00131 N00127  100 TC=0,0 
V_VS         N00127 0 10Vdc
R_RL         0 N00131  100 TC=0,0 
D_D1         0 N00131 D1N4732 
