* source 4300LAB4CMATTHEWS
V_VDD         N146120 0 10Vdc
V_VgsAC         N146940 0  AC 65m
+SIN 0 65m 1k 0 0 0
R_Rs         0 N147550  220 TC=0,0 
R_Rd         N146120 N14913  2k TC=0,0 
V_VGSdc         N14946 N146940 3Vdc
M_M1         N14913 N14946 N147550 N147550 M2N7000
Q_Q1         N15545 N15482 0 Q2N3904
V_VbeAC         N152300 0  AC 65m
+SIN 0 65m 1k 0 0 0
R_RB         N15475 N15482  33k TC=0,0 
R_RC         N15545 N153780  2k TC=0,0 
V_VBE         N15475 N152300 1Vdc
V_VCC         N153780 0 10Vdc
