* source COLE4400LAB5
M_M1         N14397 N14592 0 0 Mbreakn  
+ L=10u  
+ W=170u  
+ AD=8500p  
+ AS=8500p  
+ PD=440u  
+ PS=440u  
+ NRD=0.1  
+ NRS=0.1   
R_R1         N14596 N14592  100k TC=0,0 
R_R2         N14393 N14557  10 TC=0,0 
V_PRINT1         N14393 N14397 0V
         
.PRINT        DC I(V_PRINT1) 
          
.PRINT         DC V([N14397],[0]) 
V_V1         N14596 0 0Vdc
V_V2         N14557 0 0Vdc
M_M2         N147392 N14893 0 0 Mbreakp  
+ L=10u  
+ W=360u  
+ AD=18000p  
+ AS=18000p  
+ PD=820u  
+ PS=820u  
+ NRD=0.54  
+ NRS=0.54   
V_V3         0 N14886 0Vdc
V_V4         N14973 0 4
V_PRINT3         N148010 N14973 0V
         
.PRINT        DC I(V_PRINT3) 
R_R3         N14886 N14893  100k TC=0,0 
R_R4         N148010 N147392  10 TC=0,0 
