* source 4400PRELAB3
D_D1         N14446 N14581 D1N4002 
D_D2         0 N14446 D1N4002 
D_D3         N14563 N14581 D1N4002 
D_D4         0 N14563 D1N4002 
V_V1         N14446 N14563  AC 19.7899
+SIN 0 19.7899 60 0 0 0
C_C1         0 N14581  10u  TC=0,0 
R_R1         0 N14581  100k TC=0,0 
