* source 4300 LAB 4
V_V1         N00155 0  AC 21.213
+SIN 0 21.213 60 0 0 0
D_D1         N00174 N00155 D1N4002 
D_D2         N00155 N00197 D1N4002 
D_D3         0 N00197 D1N4002 
D_D4         N00174 0 D1N4002 
C_C1         N00174 N00197  {C}  TC=0,0 
R_R1         N00174 N01258  {RL} TC=0,0 
R_R2         N00197 N01258  {RS} TC=0,0 
D_D6         N00174 N01258 D1N4733 
.PARAM  rs=220 rl=1000 c=470u
