* source 4300LAB1TRY2
V_V1         N14424 0  AC 24
+SIN 0 24 1k 0 0 0
D_D1         N14435 N14439 Dbreak 
R_R1         N14424 N14435  100 TC=0,0 
V_V2         N14439 0 6Vdc
